US06369281B1
A process for producing 2-butyl-2-ethyl-1,3-propanediol, comprising feeding a hydroxide compound into a reaction mixture containing 2-ethylhexanal and formaldehyde wherein said hydroxide compound is fed into the reaction mixture continuously and incrementally to produce 2-butyl-2-ethyl-1,3-propanediol such that the reaction mixture is maintained in two phases, an organic phase and an aqueous phase throughout the entire production process.

reactant | hydroxide | [OH-]
reactant | 2-ethylhexanal | C(C)C(C=O)CCCC | C8H16O
reactant | formaldehyde | C=O | CH2O
product | 2-butyl-2-ethyl-1,3-propanediol | C(CCC)C(CO)(CO)CC | C9H20O2
